US04518532
Synthesis of N-[4-(3-aminopropyl)aminobutyl]-2-(5-guanidinopentanamido)-2-hydroxyethanamide
A mixture of 92.4 mg (0.48 mmole) of 5-guanidinopentanamide hydrochloride, 166.5 mg (0.57 mmole) of N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride, 62.8 mg (0.48 mmole) of glutaric acid and 0.1 ml of water was heated at 60° C. for 24 hours. After completion of the reaction, 5 ml of water was added to the reaction mixture which was then purified in a manner similar to that in Example 1 using CM-Sephadex® C-25 (Na-type) and Sephadex® LH-20 to obtain 82.5 mg (37.1% yield) of a white powder of N-[4-(3-aminopropyl)aminobutyl]-2-(5-guanidinopentanamido)-2-hydroxyethanamide trihydrochloride.

reactant | 5-guanidinopentanamide hydrochloride | 0.48 mmole, 92.4 mg | Cl.N(C(=N)N)CCCCC(=O)N
reactant | N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride | 0.57 mmole, 166.5 mg | Cl.Cl.NCCCNCCCCNC(C(O)O)=O
reactant | glutaric acid | 0.48 mmole, 62.8 mg | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | N-[4-(3-aminopropyl)aminobutyl]-2-(5-guanidinopentanamido)-2-hydroxyethanamide trihydrochloride | Cl.Cl.Cl.NCCCNCCCCNC(C(O)NC(CCCCNC(=N)N)=O)=O
solvent | water | 5 ml | O | H2O
solvent | water | 0.1 ml | O | H2O
product | N-[4-(3-aminopropyl)aminobutyl]-2-(5-guanidinopentanamido)-2-hydroxyethanamide | 82.5 mg, 37.1% yield | NCCCNCCCCNC(C(O)NC(CCCCNC(=N)N)=O)=O | C15H33N7O3
